US07807671B2
Preparation 4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide
A mixture of the solid containing 3-(carboxycarbonyl)-4-methoxy-1H-pyrrolo[2,3-b]pyridine 7-oxide from above (200 mg, 0.84 mmol), triethylamine (0.5 mL, sssss), 1-(1-phenyl-1H-tetrazol-5-yl)piperazine (234 mg, 1.01 mmol) and TBTU (404 mg, 1.26 mmol) was stirred at rt in DMF (1 mL) for 24 h. H2O was added and the reaction mixture was concentrated under reduced pressure. The residue was purified using reverse phase prep HPLC to afford the title compound as a white solid (15 mg, 4%). 1H NMR (500 MHz, CDCl3) δ ppm 3.32 (s, 2 H) 3.37 (s, 2H) 3.56 (s, 2 H) 3.79 (s, 2 H) 4.13 (s, 3 H) 6.83 (d, J=7.32 Hz, 1 H) 7.53 (d, J=6.71 Hz, 1 H) 7.54-7.60 (m, 3 H) 8.16 (s, 1 H) 8.34 (d, J=6.71 Hz, 1H). LCMS: m/e 449 (M+H)+, ret time 0.99 min (method 2).

reactant | 3-(carboxycarbonyl)-4-methoxy-1H-pyrrolo[2,3-b]pyridine 7-oxide | C(=O)(O)C(=O)C1=CNC2=[N+](C=CC(=C21)OC)[O-] | C10H8N2O5
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine | 1.01 mmol, 234 mg | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
reactant | TBTU | 1.26 mmol, 404 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide | 15 mg, 4% | COC1=C2C(=[N+](C=C1)[O-])NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C21H20N8O4
